US07232819B2
Step 3: benzyl 1-cyano-7-azabicyclo[2.2.1]heptane-7-carboxylate (C-37)
Benzyl 1-(aminocarbonyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate (C-36) in dichloromethane was treated at 0° C. with Et3N (2.1 eq.) and trifluoroacetic anhydride (1.1 eq.) was added dropwise. The reaction mixture was stirred at 0° C. for 30 minutes. Then, it was diluted with dichloromethane, washed with saturated NaHCO3 solution, H2O, brine and dried over Na2SO4. Filtration and evaporation afforded the titled compound (C-37).

reactant | Benzyl 1-(aminocarbonyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate | NC(=O)C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2 | C15H18N2O3
reactant | Et3N | 2.1 eq. | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.1 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzyl 1-cyano-7-azabicyclo[2.2.1]heptane-7-carboxylate | C(#N)C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2 | C15H16N2O2
